US03957891
EXAMPLE 2 -- PREPARATION OF 2-METHYL-4,5,α,β-TETRACHLOROSTYRENE
A mixture containing 131.5 g (1.0 mole), of trichloroethylene, 80.5 (0.5 mole) of 3,4-dichlorotoluene and 5 g. of aluminum chloride was stirred and heated at reflux for 2 hours. The reaction mixture was then washed with concentrated HCl, then with water until neutral, dried and distilled. 42.7 grams of product was collected, having a boiling point of 97°-102°C at 0.5 mm Hg pressure.

reactant | trichloroethylene | ClC=C(Cl)Cl | C2HCl3
reactant | 3,4-dichlorotoluene | ClC=1C=C(C=CC1Cl)C | C7H6Cl2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-METHYL-4,5,α,β-TETRACHLOROSTYRENE | CC1=C(C(=CCl)Cl)C=C(C(=C1)Cl)Cl | C9H6Cl4
